US08754068B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate
To a solution of (1R,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-methyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (4 g, 8.50 mmol) in CH2Cl2 (100 mL) was added PCC (5.50 g, 25.5 mmol). The reaction mixture was stirred for 15 hours at room temperature. TLC indicated starting material was consumed and a new compound was generated. The reaction mixture was concentrated under reduced pressure and the residue was purified by biotage using ethyl acetate/hexanes (0-20%) to give the desired product (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate as a white solid (4 g, 100%). 1H NMR (500 MHz, DMSO-D6) δ ppm 0.85 (s, 3H), 0.88 (s, 3H), 0.93 (s, 3H), 0.95 (s, 3H), 0.98 (s, 3H), 1.00-1.64 (m, 17H), 1.65 (s, 3H), 1.73-1.84 (m, 3H), 2.07-2.23 (m, 2H), 2.28-2.39 (m, 1H), 2.39-2.48 (m, 1H), 2.86-3.00 (m, 1H), 3.56-3.63 (s, 3H), 4.58 (s, 1H), 4.71 (d, J=1.83 Hz, 1H).

reactant | (1R,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-methyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 8.50 mmol, 4 g | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OC)C)C)(C)C | C31H50O3
reactant | PCC | 25.5 mmol, 5.50 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 4 g, 100% | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CCC(C([C@@H]4CC[C@@]12C)(C)C)=O)C)[C@@H](CC3)C(=C)C)C(=O)OC | C31H48O3
